US09211301B2
Treatment of myocytes with NAD+, 2-(2,2,6,6-Tetramethylpiperidin-1-oxyl-4-ylamino)-2-oxoethyl)triphenylphosphonium chloride (MitoTEMPO), δV1-1, or forskolin (500, 10, 2, or 5 μM, respectively) extracellularly led to decreases of ROS in myopathic mouse myocytes to levels similar to the sham group (1.4±0.1, 1.1±0.1, 0.9±0.1, or 0.8±0.1-fold of sham, respectively, P>0.05). Here, we used the specific inhibitor of PKCδ, δV1-1, instead of chelerythrine, because chelerythrine's fluorescence affected the evaluation with MitoSOX™ Red. FIG. 5C shows representative confocal images of these measurements. Treatment of sham myocytes with these compounds had no effect on mitochondrial ROS production. For the animal treated groups, we used flow cytometry to test the MitoSOX™ Red fluorescence. This method measured ˜10,000 myocytes for each group to produce more reliable measure of net mitochondrial ROS. Similar results to those with confocal microscopy were obtained with sham, DOCA and DOCA mice injected with NAD+ or 2-(2,2,6,6-Tetramethylpiperidin-1-oxyl-4-ylamino)-2-oxoethyl)triphenylphosphonium chloride (MitoTEMPO) (100 or 0.7 mg/kg, respectively; FIG. 5B). The mean fluorescent intensity of the myopathic DOCA group was increased by 1.7±0.1-fold when compared to sham (P<0.05). NAD+ and 2-(2,2,6,6-Tetramethylpiperidin-1-oxyl-4-ylamino)-2-oxoethyl)triphenylphosphonium chloride (MitoTEMPO) decreased the mitochondrial ROS overproduction in myopathic mouse myocytes to 1.1±0.2- and 1.0±0.1-fold of sham, respectively (P>0.05).

reactant | NAD+ | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)O)O)O)O)C(=O)N
reactant | triphenylphosphonium chloride | [Cl-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | forskolin | CC(=O)O[C@H]1[C@H]([C@@H]2[C@]([C@H](CCC2(C)C)O)([C@@]3([C@@]1(O[C@@](CC3=O)(C)C=C)C)O)C)O | C22H34O7
reactant | chelerythrine | C[N+]=1C=C2C(C=CC(=C2OC)OC)=C3C1C=4C=C5C(=CC4C=C3)OCO5
product | DOCA | CC(=O)OCC(=O)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CCC4=CC(=O)CC[C@]34C)C | C23H32O4
